12
R0100 1 0 500
R4 2 0 1000
R0300 3 0 500
R4 4 0 1000
R2 5 0 5000
R2 6 0 5000
R1 7 5 10000
R1 8 6 10000
L1 7 9 10E-3
L1 8 10 10E-3
C2 1 0 100E-6
C2 3 0 100E-6
C1 5 11 10E-6
C3 2 9 10E-6
C1 6 12 10E-6
C3 4 10 10E-6
Q0905 9 5 1 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
Q1006 10 6 3 PNP 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
VIN 11 0 1 0 0
VCC 7 0 0 0 10
VIN 12 0 1 0 0
VCC 0 8 0 0 10
.AC DEC 100 1 100E9
